US09301951B2
tert-butyl 4-(2-(methyl(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzyl)amino)ethyl)-piperazine-1-carboxylate
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(chloromethyl)benzamido)-5-(piperidin-1-yl)phenyl)-isonicotinamide (100 mg, 0.17 mmol, 1.00 equiv) in N,N-dimethylformamide (2.5 mL), acetone (2.5 mL), tert-butyl 4-(2-(methylamino)ethyl)piperazine-1-carboxylate (48 mg, 0.20 mmol, 1.20 equiv), potassium carbonate (68 mg, 0.49 mmol, 3.00 equiv), and potassium iodide (6 mg, 0.04 mmol, 0.20 equiv). The resulting solution was stirred for 2.5 h at 70° C. in an oil bath. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 75.5 mg (49%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.28 (s, 1H), 9.58-9.54 (m, 1H), 8.94-8.92 (d, J=5.1 Hz, 1H), 8.33-8.27 (m, 2H), 8.04 (s, 1H), 7.96-7.93 (d, J=7.8 Hz, 1H), 7.85-7.84 (d, J=4.2 Hz, 1H), 7.71-7.55 (m, 7H), 7.31-7.28 (d, J=8.1 Hz, 1H), 4.64-4.62 (d, J=5.7 Hz, 2H), 4.29 (s, 2H), 3.44-3.31 (m, 8H), 3.20 (s, 2H), 3.06 (s, 2H), 3.27-3.26 (m, 6H), 1.73 (s, 4H), 1.60 (s, 2H), 1.39 (s, 9H). MS (ES, m/z): 814 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(chloromethyl)benzamido)-5-(piperidin-1-yl)phenyl)-isonicotinamide | 0.17 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CCl)=O)=O)C=CC1)(F)F | C33H30ClF3N4O2
reactant | tert-butyl 4-(2-(methylamino)ethyl)piperazine-1-carboxylate | 0.20 mmol, 48 mg, 1.20 equiv | CNCCN1CCN(CC1)C(=O)OC(C)(C)C | C12H25N3O2
reactant | potassium carbonate | 0.49 mmol, 68 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.04 mmol, 6 mg, 0.20 equiv | [I-].[K+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | acetone | 2.5 mL | CC(=O)C | C3H6O
product | tert-butyl 4-(2-(methyl(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzyl)amino)ethyl)-piperazine-1-carboxylate | 75.5 mg, 49% | CN(CCN1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C45H54F3N7O4
